US05112998
The reaction and workup procedures of Example 110 were repeated except that 400 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-3β-(tert-butyldimethylsilyl)oxypregn-6-ene-1α,5α-diol was used in lieu of 400 mg of 20-(1,3-dioxolan-2-yl)pregn-6-ene-1α,3β,5α-triol to give 320 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-3β-(tertbutyldimethylsilyl)oxy-1α-(methoxymethyl)oxypregn-6-en-5α-ol showing the following physical properties.

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-3β-(tert-butyldimethylsilyl)oxypregn-6-ene-1α,5α-diol | 400 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=C[C@]4(C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O[Si](C)(C)C(C)(C)C)O)C | C33H58O5Si
reactant | 20-(1,3-dioxolan-2-yl)pregn-6-ene-1α,3β,5α-triol | 400 mg | O1C(OCC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=C[C@]4(C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O)O | C24H38O5
product | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-3β-(tertbutyldimethylsilyl)oxy-1α-(methoxymethyl)oxypregn-6-en-5α-ol | 320 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=C[C@]4(C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OCOC)O[Si](C)(C)C(C)(C)C)O)C | C35H62O6Si
